US06995144B2
1-[1-[1-(3-Methoxy-2-pyrazinyl)ethyl]piperidin-4-yl]-2-(2-fluorophenyl)ethanone
After dissolving 1.012 g of triethylamine in 10 ml of ethanol, 2.575 g of 2-(2-fluorophenyl)-1-(piperidin-4-yl)ethanone hydrochloride, 10 ml of ethanol, 2.951 ml of titanium(IV)tetraisopropoxide and 760 mg of 2-acetyl-3-methoxypyrazine were added in that order and the mixture was stirred for 5 hours and 20 minutes at room temperature. Next, 1.59 g of sodium triacetoxyborohydride was added to the reaction mixture and the mixture was stirred overnight at room temperature. A sodium carbonate solution and ethyl acetate were added to the reaction mixture and the mixture was filtered with celite. The filtrate was extracted with ethyl acetate, and the extract was washed with water and saturated brine and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and then the residue was dissolved in ethyl acetate and filtered with silica gel. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (169 mg, 9% yield).

reactant | 2-(2-fluorophenyl)-1-(piperidin-4-yl)ethanone hydrochloride | 2.575 g | Cl.FC1=C(C=CC=C1)CC(=O)C1CCNCC1
reactant | 2-acetyl-3-methoxypyrazine | 760 mg | C(C)(=O)C1=NC=CN=C1OC | C7H8N2O2
reactant | sodium triacetoxyborohydride | 1.59 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | titanium(IV)tetraisopropoxide | 2.951 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.012 g | C(C)N(CC)CC | C6H15N
product | 1-[1-[1-(3-Methoxy-2-pyrazinyl)ethyl]piperidin-4-yl]-2-(2-fluorophenyl)ethanone | 169 mg, 9% yield | COC=1C(=NC=CN1)C(C)N1CCC(CC1)C(CC1=C(C=CC=C1)F)=O | C20H24FN3O2
